US05091535
(iii) Synthesis of Pyrido [3,2-g]quinoline-2,8-dicarboxylic acid
To 4,6-diaminoisophthalaldehyde (1,64 g) and 2-oxopropionic acid (1.94 g), ethyl alcohol (40 cc) was added and 2N sodium hydroxide solution (12.8 cc) was added with stirring at 80° C. and allowed to react for 4 hours. Then, 2-oxopropionic acid (0.41 g) and 2N sodium hydroxide solution (3 cc) were added and refluxed for 2 hours. After the addition of 2N aqueous ammonia (50 cc) and water (130 cc) and heating and filtration, charcoal was added with stirring. Refiltration and pH adjustment to 4-5 by 0.6N hydrochloric acid and 0.3N acetic acid a5 70°-80° C. gave solid which is hard to dissolve.

reactant | 4,6-diaminoisophthalaldehyde | 1,64 g | NC1=C(C=C(C=O)C(=C1)N)C=O | C8H8N2O2
reactant | 2-oxopropionic acid | 1.94 g | O=C(C(=O)O)C | C3H4O3
reactant | sodium hydroxide | 2N, 12.8 cc | [OH-].[Na+]
reactant | 2-oxopropionic acid | 0.41 g | O=C(C(=O)O)C | C3H4O3
reactant | sodium hydroxide | 2N, 3 cc | [OH-].[Na+]
reactant | ammonia | 2N, 50 cc | N | H3N
solvent | water | 130 cc | O | H2O
solvent | ethyl alcohol | 40 cc | C(C)O | C2H6O
product | Pyrido [3,2-g]quinoline-2,8-dicarboxylic acid | N1=C(C=CC2=CC3=C(C=C12)N=C(C=C3)C(=O)O)C(=O)O | C14H8N2O4
